US05093328
(2S,4S)-1-Methyl-2-dimethylaminocarbonyl-4-acetylthiopyrrolidine (660 mg) was dissolved in methanol (6.6 ml), and a solution of sodium methoxide (155 mg) in methanol (2.2 ml) was added thereto at room temperature under nitrogen stream, followed by stirring at the same temperature for 3 minutes. To the reaction mixture, 6N hydrochloric acid (1.05 ml) was added, and the solvent was removed by distillation. The residue was dissolved in ethanol (10.5 ml), and active carbon (99 mg) was added thereto under reflux. After refluxing for 15 minutes, the resultant mixture was filtered while hot, and the filtrate was concentrated under reduced pressure. The residue was dissolved in dichloromethane and dried over magnesium sulfate. Removal of the solvent gave (2S,4S)-1-methyl-2-dimethylaminocarbonyl-4-mercaptopyrrolidine hydrochloride.

reactant | (2S,4S)-1-Methyl-2-dimethylaminocarbonyl-4-acetylthiopyrrolidine | 660 mg | CN1[C@@H](C[C@@H](C1)SC(C)=O)C(=O)N(C)C | C10H18N2O2S
reactant | sodium methoxide | 155 mg | C[O-].[Na+]
reactant | hydrochloric acid | 6N, 1.05 ml | Cl | ClH
solvent | methanol | 6.6 ml | CO | CH4O
solvent | methanol | 2.2 ml | CO | CH4O
product | (2S,4S)-1-methyl-2-dimethylaminocarbonyl-4-mercaptopyrrolidine hydrochloride | Cl.CN1[C@@H](C[C@@H](C1)S)C(=O)N(C)C | InChI=1S/C8H16N2OS.ClH/c1-9(2)8(11)7-4-6(12)5-10(7)3;/h6-7,12H,4-5H2,1-3H3;1H/t6-,7-;/m0./s1
